US07368578B2
A mixture of ethyl {4-[4-({4-[({4-[(Z)-2-(1-ethyl-1H-pyrazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate (350 mg), 1N aqueous sodium hydroxide solution (10 mL), tetrahydrofuran (20 mL) and ethanol (20 mL) was heated under reflux for 30 min. After cooling, the reaction mixture was acidified by adding 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. Recrystallization of the obtained crystal from tetrahydrofuran-hexane gave {4-[4-({4-[({4-[(Z)-2-(1-ethyl-1H-pyrazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetic acid as colorless crystals (300 mg, yield 89%). melting point: 146-147° C.

reactant | ethyl {4-[4-({4-[({4-[(Z)-2-(1-ethyl-1H-pyrazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate | 350 mg | C(C)N1N=CC(=C1)\C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C39H39N5O6
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | {4-[4-({4-[({4-[(Z)-2-(1-ethyl-1H-pyrazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetic acid | 300 mg, yield 89% | C(C)N1N=CC(=C1)\C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)O)C=C1)OC | C37H35N5O6
